US08466169B2
19b) 2-Amino-N-methoxy-N-methyl-4-(pentafluorosulfanyl)benzamide
2-Amino-4-(pentafluorosulfanyl)benzoic acid (2.0 g) was reacted with N,O-dimethylhydroxylamine hydrochloride analogously to example 15a). 2.3 g of the desired product were obtained.

reactant | 2-Amino-4-(pentafluorosulfanyl)benzoic acid | 2.0 g | NC1=C(C(=O)O)C=CC(=C1)S(F)(F)(F)(F)F | C7H6F5NO2S
reactant | N,O-dimethylhydroxylamine hydrochloride | Cl.CNOC
product | 2-Amino-N-methoxy-N-methyl-4-(pentafluorosulfanyl)benzamide | 2.3 g | NC1=C(C(=O)N(C)OC)C=CC(=C1)S(F)(F)(F)(F)F | C9H11F5N2O2S
